US07015218B1
4-[N-(3-Cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetic acid
Ethyl 4-[N-(3-cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetate (0.7 g) was added to ethanol (5 ml) and 10% aqueous sodium hydroxide solution (5 ml) was added. The mixture was stirred at a refluxing temperature for 30 min. The solvent was evaporated under reduced pressure. To the residue was added dilute hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give the title compound (0.2 g), melting point: 234–245° C.

reactant | Ethyl 4-[N-(3-cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetate | 0.7 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C(=NN(C1)CC(=O)OCC)C | C21H26N4O4
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-[N-(3-Cyano-4-neopentyloxyphenyl)carbamoyl]-3-methylpyrazol-1-ylacetic acid | 0.2 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C(=NN(C1)CC(=O)O)C | C19H22N4O4
